US08809336B2
17B. 4-(4-Chlorobenzyl)piperidine-1,4-dicarboxylic acid mono-tert-butyl ester
To a solution of 4-(4-chlorobenzyl)piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester (1.515 g, 4.117 mmol) in dioxane (20 ml), methanol (10 ml) and water (10 ml) at room temperature was added lithium hydroxide monohydrate (3.455 g, 82.341 mmol). After stirring at 50° C. for 2 days the solution was acidified to pH 6 with 2M HCl and the resulting white precipitate was extracted with diethyl ether (2×100 ml). The organic phases were combined, dried over sodium sulphate and concentrated to dryness, to give the acid as a white solid (1.460 g, 100%). LC-MS (LCT) m/z 376 [M+Na+], Rt 7.62 min.

reactant | 4-(4-chlorobenzyl)piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-methyl ester | 4.117 mmol, 1.515 g | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)Cl | C19H26ClNO4
reactant | lithium hydroxide monohydrate | 82.341 mmol, 3.455 g | O.[OH-].[Li+]
reactant | HCl | 2M | Cl | ClH
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 4-(4-Chlorobenzyl)piperidine-1,4-dicarboxylic acid mono-tert-butyl ester | 1.460 g, 100% | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CC1=CC=C(C=C1)Cl | C18H24ClNO4
